US07601844B2
N-((2R,3R)-1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxopentan-2-yl)benzamide
A reaction tube was charged with HOBt (8 mg), benzoic acid (7 mg) and EDC (11 mg) in DMF (0.6 mL) and then agitated at rt. for 15 min. After this time, a solution of (2R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylpentan-1-one hydrochloride (16 mg) in DIEA (38 μL) and DMF (187 μL) was added. Upon completion of addition, the reaction mixture was shaken overnight at rt. At the conclusion of this period, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 150. MS found: (M+H)+=414.

reactant | HOBt | 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | benzoic acid | 7 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDC | 11 mg
reactant | (2R)-2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylpentan-1-one hydrochloride | 16 mg | Cl.N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(CC)C
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | DIEA | 38 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 187 μL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-((2R,3R)-1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxopentan-2-yl)benzamide | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H]([C@@H](CC)C)NC(C1=CC=CC=C1)=O)=O | C24H29ClN2O2
